Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
omeprazole / Hibiclens
 
Attending: ___.
 
Chief Complaint:
autologous stem cell transplant 
 
Major Surgical or Invasive Procedure:
Temp CVC placement ___, removed ___

 
History of Present Illness:
Mrs. ___ is a ___ year old female with IgG Kappa
Multiple Myeloma presenting for autologous stem cell transplant.
Her oncologic history dates back to ___ and she had been
followed by Dr. ___ MGUS and mild thrombocytopenia. In
___ she developed a right femoral pathologic fracture
consistent with plasmacyoma. She underwent femur fixation on
___ at ___. She was then referred to the ___ 
___
clinic at ___ for further management. 

Her initial work-up on ___ was notable for the following: On
protein electrophoresis, there was an abnormal band in the gamma
region, representing 23.3% of the total protein, or 1840mg/dL.
When subjected to Immunofixation electrophoresis, this band is
identified as monoclonal IgG kappa. Free Kappa concentration is
400.6mg/L.  Total IgG concentration is 2391mg/dL. Her CBC
demonstrated a normal WBC, anemia with her Hgb at 8.4, and
platelets 395. Calcium was WNL and Beta ___ Micro was elevated at
2.6. Her albumin was 3.7. Her kidney function was normal with a
creatinine of 0.9. On urine protein electrophoresis trace 
albumin
was the only protein detected. A Skeletal Survey done showed
evidence of multiple osteolytic lesions in the calvarium and
lucencies in the mid to distal left femoral diaphysis are
nonspecific, small osteolytic lesion are not excluded. 
A bone marrow aspiration and biopsy was done on ___ which
showed ___ highlights plasma cells comprising ___ of the
overall core biopsy cellularity and aspirate with plasma cells
representing 21%. Cytogentics show a normal female karyotype.
FISH was positive for gain of chromosomes 5,9 and 15. Given this
information she was diagnosed with IgG kappa multiple myeloma.
She has most recently completed 20 doses of daratumumab and has
had a VGPR with BM bx ___ showing 1% plasma cells. She then
presented for HD Cytoxan mobilization ___ to be followed by
autologous stem cell transplant. This was delayed due to FN and
prolonged TCP, BM bx ___ shown no evidence of myeloma and
thought this was related to presumed viral infection. Plt count
has improved and she now presents for autologous stem cell
transplant. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY: per Discharge Summary ___
======================================================
Her oncologic history dates back to ___ and she has been
followed 
by Dr. ___ MGUS and mild thrombocytopenia. In ___ she 
developed a right femoral pathologic fracture consistent with
plasmacyoma. She underwent femur fixation on ___ at ___. 
She was then referred to the ___ clinic for 
further management. 

Her initial work-up on ___ was notable for the following: On 
protein electrophoresis, there was an abnormal band in the gamma 

region, representing 23.3% of the total protein, or 1840mg/dL. 
When subjected to Immunofixation electrophoresis, this band is 
identified as monoclonal IgG kappa. Free Kappa concentration is 
400.6mg/L.  Total IgG concentration is 2391mg/dL. Her CBC
demonstrated a normal WBC, anemia with her Hgb at 8.4, and 
platelets 395. Calcium was WNL and Beta ___ Micro was elevated at 
2.6. Her albumin was 3.7. Her kidney function was normal with a 
creatinine of 0.9. On urine protein electrophoresis trace 
albumin was the only protein detected. A Skeletal Survey done 
showed evidence of multiple osteolytic lesions in the calvarium 
and lucencies in the mid to distal left femoral diaphysis are 
nonspecific, small osteolytic lesion are not excluded. A bone 
marrow aspiration and biopsy was done on ___ which showed 
CD___ highlights plasma cells comprising ___ of the overall 
core biopsy cellularity and aspirate with plasma cells 
representing 21%. Cytogentics show a normal female karyotype. 
FISH was positive for gain of chromosomes 5,9 and 15. Given this 

information she was diagnosed with IgG kappa multiple myeloma. 

Started treatment with Velcade/ dexamethasone on ___.
Revlimid added on ___. She developed a rash on revlimid with
cycle 1 it was held for the remainder of the cycle and rash
resolved. We then trailed a lower dose of revlimid of 5mg with
cycle 2, she again developed a rash. Cycle 3 we held revlimid 
and
gave velcade and dex alone, after 1 dose of velcade she 
developed
a rash, due to this we stopped velcade. Due to this we decided 
to
change therapy to daratumumab. On ___ we added a low dose of
revlimid 5mg days ___ followed by 7 days off. She tolerated 
this
well. On ___ she was admitted for high dose 
cyclophosphamide.

Planning to undergo apheresis on ___ for stem cell 
mobilization.

PAST MEDICAL/SURGICAL HISTORY:  
===============================
- Seasonal allergies.
- Anxiety.
- Vitamin B12 deficiency.
- Carpal tunnel surgery, right hand, in ___. Off and on
symptoms of carpal tunnel syndrome in the left hand for several
years.
- Torn retina left eye; detached retina right eye.
- Spinal stenosis
- Sleep apnea- occasionally uses CPAP
- h/o of herpes simplex 
- Vitamin D deficiency.
- Borderline hyperparathyroidism.
- Chronic neck/upper back pain 
- Lactose inrolerant
 
Social History:
___
Family History:
-- Mother: colon cancer in ___
-- Maternal grandmother: rectal cancer in her ___.
-- Father: prostate cancer in his ___, but died of a stroke. 
-- Brother: s/p ___ 

Denies family history of heme malignancies. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VSS
General:  Well-appearing; in no acute distress. 
Heent: PERRLA, Anicteric sclerae.  Oropharynx clear without
erythema, oral ulcerative lesions, or thrush. 
Neck:  Supple without thyromegaly or adenopathy. 
Lymphatics: No cervical, supraclavicular, infraclavicular, or
axillary adenopathy noted. 
Heart:  Regular rate and rhythm.  Normal S1, S2. No S3 or S4. No
murmurs, rubs, or gallops. 
Lungs:  Clear to auscultation bilaterally without rhonchi, 
rales,
or wheezes.  Normal respiratory effort. 
Abdomen: Soft, nontender,  nondistended, normoactive bowel 
sounds
throughout.  No heptosplenomegaly. 
Skin:  Warm, dry, intact. 
Extremities:  No edema.

DISCHARGE PHYSICAL EXAMINATION:
see flow sheet for vitals
General: Well-appearing, NAD
Heent: NC/AT PERRLA, Anicteric sclerae. Oropharynx mild erythema
but improving. No ulcerative lesions, or thrush. 
Heart:  Normal S1, S2. No S3 or S4. No murmurs,
rubs, or gallops.
Lungs: Clear to auscultation bilaterally without rhonchi, rales,
or wheezes. Non-labored.
Abdomen: Soft, nondistended, normoactive bowel sounds.
Skin: Warm, dry, intact.
Extremities: No edema.
Neuro: A+O x3. CN II-XII grossly intact.
Access: CVL without tenderness, discharge or erythema

 
Pertinent Results:
ADMISSION LABS:

___ 12:15PM BLOOD WBC-3.5* RBC-3.67* Hgb-11.6 Hct-36.3 
MCV-99* MCH-31.6 MCHC-32.0 RDW-13.9 RDWSD-50.8* Plt ___
___ 12:15PM BLOOD Neuts-80.9* Lymphs-7.4* Monos-9.9 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-2.85 AbsLymp-0.26* 
AbsMono-0.35 AbsEos-0.02* AbsBaso-0.02
___ 12:15PM BLOOD ___ PTT-29.2 ___
___ 12:15PM BLOOD Glucose-90 UreaN-18 Creat-0.9 Na-141 
K-4.1 Cl-103 HCO3-22 AnGap-16
___ 12:15PM BLOOD ALT-7 AST-21 LD(LDH)-195 AlkPhos-77 
TotBili-0.5 DirBili-<0.2 IndBili-0.5
___ 12:15PM BLOOD TotProt-6.5 Albumin-4.7 Globuln-1.8* 
Calcium-10.3 Phos-3.7 Mg-2.2

DISCHARGE LABS:

___ 12:00AM BLOOD WBC-5.2 RBC-2.50* Hgb-7.8* Hct-24.3* 
MCV-97 MCH-31.2 MCHC-32.1 RDW-13.5 RDWSD-47.6* Plt ___
___ 12:00AM BLOOD Neuts-78.2* Lymphs-8.2* Monos-11.0 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-3.62 AbsLymp-0.38* 
AbsMono-0.51 AbsEos-0.01* AbsBaso-0.01
___ 12:00AM BLOOD Glucose-78 UreaN-14 Creat-0.6 Na-139 
K-4.1 Cl-102 HCO3-22 AnGap-15
___ 12:00AM BLOOD ALT-27 AST-32 LD(LDH)-243 AlkPhos-68 
TotBili-0.3
___ 12:00AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.9

 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with IgG Kappa
Multiple Myeloma most recently treated with 20 doses of
daratumumab, HD Cytoxan mobilization presenting for autologous
stem cell transplant with melphalan. 

ACUTE CONDITIONS:
====================
#MULTIPLE MYELOMA (ASCT Day 0 = ___: 
#ENCOUNTER FOR CHEMOTHERAPY: 
Most recent BM bx ___ negative for multiple myeloma
involvement. She is now admitted for ASCT.
- Melphalan 152.5 mg IV Q24H on Days -3 and -2. 
- Antiemetics/IVF per protocol
- Acyclovir ppx 
- Neupogen started D+4 (stopped ___ & as plts= 66 she 
received
Bactrim x1 for PCP ppx on ___, started Atovaquone on ___ d/t
TPC. 
- will plan to discharge patient on Atovaquone, will start
Bactrim in clinic. 

#FEVER (reoccurred ___: Intermittent throughout admission,
most recently with fever to 101.5 overnight ___. No associated
chills, rigors. Resolved with antipyretics and she was restarted
on Cefepime given high fever despite absence of symptoms and
non-neutropenic, which was ultimately d/c'd as she was non-toxic
appearing and non-neutopenic. CXR negative for PNA and blood
cultures obtained. HHV6 from ___ resulted at ___. Feel HHV-6
is most likely etiology of fever, repeated levels pending. Will
monitor for s/sx of encephalopathy. CT A/P showed no other 
source
of infection and blood cultures NGTD. 
-d/c'd cefepime (___)
-HHV6 PCR ___ ___, repeated ___ ___, repeat ___ down 
to
___ so now clearing
-blood cultures without growth 
-Monitor and trend symptoms 

#Hypogammaglobulinemia: IgG 187. Gave IVIG with premeds on ___
without incidence. Will plan to repeat in 1 week.

#MUCOSITIS ___ chemotherapy (resolved)
#SEVERE MALNUTRITION:
#CINV:  Pain continues to improve, able to swallow pills without
difficulty. Now tolerating PO fluids and increasing solids.
Dilaudid PCA d/c ___ given improvement in symptoms.  Having
anticipatory nausea/anxiety, continues marinol PRN. Given
increased, PO, d/c'd TPN on ___ ___ating 75% of meals. Has
some continued tongue irritation but no lesions, described as
"cotton" tongue per patient, anticipate this will resolve with
time.  
- Nutrition consulted: TPN ___
- Encouraged PO intake 

#DIARRHEA (improving): Developed multiple non-voluminous and
non-bloody stools on ___. Repeat C-diff on ___
negative. Had >24 hours without BM ___, de-escalated standing
anti-diarrheals to  PRN. 

#SINUS TACHYCARDIA (resolved)
#DYSPNEA: (resolved) Likely related to deconditioning, anxiety
combined with anemia. Also noted for mild FVO since initiation 
of
TPN/IV ABX. Given 10mg IV Lasix ___ and back to baseline 
weight
___. No hypoxemia. Echo with LVEF 66% and stable from 
previous.
Obtained CTA ___ and neg for PE. Received 1 unit PRBC ___
given continued dyspnea on exertion with some improvement in
symptoms. Will continue to monitor. 

#ANXIETY & INSOMNIA: Improved off dexamethasone. She continues 
on
citalopram & trazadone standing. Ativan for additional support,
adjust as needed. 
-Repeat QTc 445 ___
-SW to follow, consider psych if concerns

#THROMBOCYTOPENIA: Recovering. Pre-admit thought secondary to
recent presumed viral infection with most recent BM bx negative
for disease involvement then worsened secondary to melphalan, 
now
improving and stable. Last platelet transfusion ___.
- Trend daily CBC
- Transfuse for plt <10K or acute bleeding

CHRONIC/RESOLVED/STABLE ISSUES:
===================================
#FEBRILE NEUTROPENIA (resolved): Fever spike ___ and none
since. Consider oral mucositis or gut translocation in setting 
of
diarrhea as main sources of infection. 
- d/c vanc (___) with MRSA swab neg, neg gram +source
work up 
- d/c cefepime ___ ) 
- d/c fluconazole with ANC recovery (___) 
- No consolidation on CXR ___
- Blood and Urine cultures negative 

#HYPERTENSIVE URGENCY: Exacerbated from admission now resolved.
SBPs was 170-190 at its peak but averaging in the 150s. Patient
is asymptomatic and has no evidence of acute end-organ damage. 
Of
note, no prior history per record review. ? due to anxiety
exacerbation and significant sleep deprivation. Initially, we
held off on anti-HTN; however, as HTN persisted, we started
amlodipine
-d/c'd amlodipine 10mg (D1: ___ with resolution
-Trend BP, preferably manually

#CHRONIC BACK AND NECK PAIN FROM SPINAL STENOSIS:
#NEUROPATHY: 
Followed by orthopedic at ___. She continues on home dosing of
gabapentin and oxycodone. We held Tylenol with risk of masking
fever in the context of transplant; however, can receive
intermittent doses as appropriate.

#ANEMIA: Macrocytic. No B12 or folate deficiency though has not
check folate level recently. Recent TSH normal. Likely due to
malignancy but expect downtrend in s/o melphalan. Transfuse if
hgb < 7. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Citalopram 10 mg PO DAILY 
3. Gabapentin 400 mg PO QAM 
4. Gabapentin 800 mg PO QPM 
5. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
6. TraZODone 50 mg PO QHS 
7. Vitamin D 1000 UNIT PO 2X WEEK 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral ASDIR 
9. Cyanocobalamin 1000 mcg PO Q MONTH 
10. lactase 3,000 unit oral DAILY 
11. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
12. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Atovaquone Suspension 1500 mg PO DAILY  
2.  FoLIC Acid 1 mg PO DAILY  
3.  LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
DO NOT START UNTIL OUTPATIENT TEAM TELLS YOU TO DO SO  
6.  Acyclovir 400 mg PO TID  
7.  Prochlorperazine ___ mg PO Q6H:PRN Nausea/Vomiting - First 
Line  
8.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral ASDIR  
9.  Citalopram 10 mg PO DAILY  
10.  Cyanocobalamin 1000 mcg PO Q MONTH  
11.  Gabapentin 400 mg PO QAM  
12.  Gabapentin 800 mg PO QPM  
13.  lactase 3,000 unit oral DAILY  
14.  TraZODone 50 mg PO QHS  
15.  Vitamin D 1000 UNIT PO 2X WEEK  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Multiple Myeloma
Encounter for Chemotherapy
Febrile Neutropenia
Diarrhea
Mucositis
Dyspnea
Sinus tachycardia

Secondary:
Anxiety
B12 deficiency
vit D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  ___

You were admitted for an autologous stem cell transplant. 

You had a fever and mouth pain while your blood counts were low. 
We did a work up including blood testing, urine testing, and 
chest x rays which did not find a source of infection. You were 
placed on antibiotics for your fever spikes and your fevers 
resolved. 

You also developed nausea, diarrhea and loss of appetite while 
you were admitted. These are common side effects after 
transplant and your symptoms continue to improve.
Your nausea medications are as follows:
1 compazine
2 ativan

You will continue to take acyclovir to prevent infection. You 
will start to take Bactrim to prevent a certain type of 
pneumonia once your counts have fully recovered. Your outpatient 
provider ___ tell you when to start this. 

Please take your temperature twice a day, and call us if it goes 
above 100.4.  Please be sure to drink at least 2L (64oz) of 
fluid daily. Call if you are unable to do so, or if you have 
worsening nausea or watery stools.

It has been a pleasure taking care of you. 

 
Followup Instructions:
___